US04098812
4-Chloro-α-methoxy-5-nitro-o-toluic acid
A slurry of methyl 4-chloro-α-methoxy-5-nitro-o-toluate (7.0 g.) in dilute sodium hydroxide (35 ml of IN) is stirred about 30 hours. The yellow slurry is then diluted with 50 ml. of water resulting in a clear yellow solution. The solution is extracted with ether, then the aqueous layer is separated and acidified to give 5.7 g. of an off-white solid. A sample recrystallized from benzene has a mp 155°-157°.

reactant | methyl 4-chloro-α-methoxy-5-nitro-o-toluate | 7.0 g | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C(=O)OC | C10H10ClNO5
reactant | water | O | H2O
solvent | sodium hydroxide | 35 ml | [OH-].[Na+]
product | 4-Chloro-α-methoxy-5-nitro-o-toluic acid | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C(=O)O | C9H8ClNO5
